US07569579B2
Preparation 21B: [({[(1R,2R)-2-(chloromethyl)-2-phenylcyclopropyl]methyl)oxy)methyl]benzene
A mixture of polymer-bound triphenylphosphine (31.64 g, 67.08 mmol, 3 eq) and carbon tetrachloride (6.5 mL, 67.08 mmol, 3 eq) in 300 mL DCM was stirred at ambient temperature for 30 min. To this was added a solution of ((1R,2R)-1-phenyl-2{[(phenylmethyl)oxy]methyl)cyclopropyl)methanol (6.0 g, 22.36 mmol, 1 eq), accessed via the method of Preparation 20B, in 50 mL DCM and the entire reaction mixture was stirred at ambient temperature for 16 h. The mixture was then filtered and the resin washed with excess DCM. The organics were concentrated down to give the title compound (6.4 g, 22.36 mmol, 100%) as a clear oil. 1H NMR (400 MHz, DMSO-d6) δ 7.38-7.17 (m, 10H), 4.31-4.16 (m, 2H), 4.10-4.07 (m, 1H), 3.56-3.53 (m, 1H), 3.08-3.04 (m, 1H), 2.92-2.87 (m, 1H), 1.63-1.56 (m, 1H), 1.08-0.99 (m, 2H).

reactant | triphenylphosphine | 67.08 mmol, 31.64 g, 3 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 67.08 mmol, 6.5 mL, 3 eq | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | ((1R,2R)-1-phenyl-2{[(phenylmethyl)oxy]methyl)cyclopropyl)methanol | 22.36 mmol, 6.0 g, 1 eq | C1(=CC=CC=C1)[C@@]1([C@@H](C1)COCC1=CC=CC=C1)CO | C18H20O2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | [({[(1R,2R)-2-(chloromethyl)-2-phenylcyclopropyl]methyl)oxy)methyl]benzene | 22.36 mmol, 6.4 g, 100% | ClC[C@]1([C@@H](C1)COCC1=CC=CC=C1)C1=CC=CC=C1 | C18H19ClO
